US04306097
5-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1,3-cyclohexanedione
A mixture of 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-carbomethoxy-1,3-cyclohexanedione (20.8 g, 43.5 mmole), dioxane (40 ml) and 20% sodium hydroxide (40 ml) was heated at 100° C. for 2.5 hours. It was cooled in an ice bath and acidified with concentrated hydrochloric acid. This mixture was heated for one hour at 100° C., cooled to 0° C. and then neutralized with sodium bicarbonate. The resultant mixture was added to saturated sodium bicarbonate and ether. The ether extract was dried over magnesium sulfate and evaporated to an oil. Purification of this oil via column chromatography on one kg of silic gel eluted with 10% acetone-ether gave 10.9 g (60%) of the title compound.

reactant | 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-carbomethoxy-1,3-cyclohexanedione | 43.5 mmole, 20.8 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1C(C(CC(C1)=O)=O)C(=O)OC | C30H38O5
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 5-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1,3-cyclohexanedione | 10.9 g, 60% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CC(C1)=O)=O | C28H36O3
